US03985710
Lauryl mercaptan (1 mole) was stirred with diethyl ether (150 ml) at 10° C and to this was added dropwise crotonaldehyde (1 mole) over a period of 2 hours. After the completion of the addition, the reaction mixture was warmed to room temperature and reacted for a further 22 hours. The reaction mixture was then distilled to give a laurylmercaptobutyraldehyde product fraction (0.90 moles) of boiling range 147°-150° C at 1.5 mm Hg. The reaction mixture was maintained under nitrogen at all times.

reactant | Lauryl mercaptan | 1 mole | C(CCCCCCCCCCC)S | C12H26S
reactant | crotonaldehyde | 1 mole | C(\C=C\C)=O | C4H6O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | laurylmercaptobutyraldehyde | C(CCCCCCCCCCC)SC(C=O)CC | C16H32OS
